US08012974B2
Trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester (0.42 g, 1.8 mmol) was dissolved in a mixture of 1.5 mL of EtOAc and 1.5 mL of H2O containing 0.95 g of NaHCO3 (7.5 mmol). The resulting suspension was warmed to 50 C. A solution of racemic piperidin-3-yl-carbamic acid tert-butyl ester (0.30 g, 1.5 mmol) in 1 mL of EtOAc was added dropwise over a 30 minute period. The reaction mixture was left stirring at 50° C. for one hour before being cooled to RT. The organic phase was separated and the aqueous layer was back extracted with EtOAc. The combined organics were washed with brine, dried (MgSO4), filtered and evaporated to give 0.38 g of racemic [1-(2,2,2-trifluoro-ethyl)-piperidin-3-yl]-carbamic acid tert-butyl ester as a colorless oil which was used in the next step without purification.

reactant | Trifluoro-methanesulfonic acid 2,2,2-trifluoro-ethyl ester | 1.8 mmol, 0.42 g | FC(COS(=O)(=O)C(F)(F)F)(F)F | C3H2F6O3S
reactant | NaHCO3 | 7.5 mmol | C(=O)(O)[O-].[Na+]
reactant | racemic piperidin-3-yl-carbamic acid tert-butyl ester | 1.5 mmol, 0.30 g | C(C)(C)(C)OC(NC1CNCCC1)=O | C10H20N2O2
solvent | EtOAc | 1.5 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 1.5 mL, 0.95 g | O | H2O
solvent | EtOAc | 1 mL | CCOC(=O)C | C4H8O2
product | racemic [1-(2,2,2-trifluoro-ethyl)-piperidin-3-yl]-carbamic acid tert-butyl ester | 0.38 g | C(C)(C)(C)OC(NC1CN(CCC1)CC(F)(F)F)=O | C12H21F3N2O2
